US05514680
5,7-Dibromo-1,4-dihydro-2,3-quinoxalinedione
The title compound was prepared using an adaptation of the method of Cheeseman. (Cheeseman, G. W. H. J. Chem. Soc. 1171 (1962)). A mixture of diethyl oxalate (2.19 g, 15.0 mmol) and 3,5-dibromo-1,2-diaminobenzene (400 mg, 1.50 mmol) was heated to reflux under N2 for 6 h. The reaction was allowed to cool to room temperature and the pale brown shiny solid collected by vacuum filtration and rinsed with EtOH (20 mL) and air dried to give 264 mg (55%). A portion of this solid (150 mg) was taken and dissolved in 20 mL 1N NaOH with heating. The solution was treated with activated charcoal and filtered through a pad of Celite. The resulting solution was carefully acidified with 2N HCl (pH=1). Pale yellow needles slowly formed in the solution and were collected by vacuum filtration, rinsed with 20 mL of H2O) and dried under vacuum (0.1 torr, 78° C.) to yield 50.0 mg of powdery white solid, mp 356°-358° C. (dec). 1H NMR (d6 -DMSO) δ7.21 (d, 1H, J=2.1, H-8), 7.53 (d, 1H, J=2.1, H-6), 11.1 (br s, 1H, NH), 12.1 (br s, 1H, NH). EIMS m/z 322 (M+4, 51.3), 320 (M+2, bp), 318 (M+, 53.9), 294 (32.2), 292 (62.6), 290 (28.7), 185 (24.3), 183 (25.2). EIHRMS calc. for C8H4Br2N2O2 317.8641, found 317.8642.

reactant | diethyl oxalate | 15.0 mmol, 2.19 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 3,5-dibromo-1,2-diaminobenzene | 1.50 mmol, 400 mg | BrC=1C(=C(C=C(C1)Br)N)N | C6H6Br2N2
reactant | charcoal | C | CH4
solvent | NaOH | 1N, 20 mL | [OH-].[Na+]
product | 5,7-Dibromo-1,4-dihydro-2,3-quinoxalinedione | BrC1=C2NC(C(NC2=CC(=C1)Br)=O)=O | C8H4Br2N2O2
